US05981533
2-Cyano-3-(3-methoxy-phenyl)-3-methylmercapto-acrylonitrile
A mixture of 4.88 g (24.61 mmol) of 3-methoxy-dithiobenzoic acid methyl ester [for preparation see: Chem. Ber. 120,1757 (1987)], 4.26 g (29.56 mmol) of tetracyanoethylene oxide (Fluka) and 35 ml of toluene is stirred for 1 hour at -5° C. and for 21 hours at 20° C. Then 2 ml of triethylamine are added to the reaction mixture, which is then concentrated while passing a stream of nitrogen through the reaction mixture for approx. 15 hours. The oily residue is purified by flash chromatography on silica gel (230-400 mesh) using hexane and hexane/-ethyl acetate mixtures having an increasing content of ethyl acetate (5%, 7.5%, 10%, 12.5% and 20% ethyl acetate). The product-containing fractions are concentrated by evaporation in vacuo, yielding the title compound in the form of an oil; TLC-Rf =0.48 (toluene/acetone [9:1]); FAB-MS: (M+H)+ =231 (C12H10N2OS).

reactant | 3-methoxy-dithiobenzoic acid methyl ester | 24.61 mmol, 4.88 g | CSC(C1=CC(=CC=C1)OC)=S | C9H10OS2
reactant | tetracyanoethylene oxide | 29.56 mmol, 4.26 g | C(#N)C1(C(C#N)(C#N)O1)C#N | C6N4O
reactant | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 2-Cyano-3-(3-methoxy-phenyl)-3-methylmercapto-acrylonitrile | C(#N)C(C#N)=C(SC)C1=CC(=CC=C1)OC | C12H10N2OS
